### PR TITLE
[Merged by Bors] - feat: port Topology.Order.Basic

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,2795 @@
...
+    (hb : Tendsto f (𝓝[s] a) (𝓝 b)) : b ∈ upperBounds (f '' s) := by
+  rintro _ ⟨x, hx, rfl⟩
+  replace ha := ha.inter_Ici_of_mem hx
+  haveI := ha.nhdsWithin_neBot ⟨x, hx, le_rfl⟩
+  refine' ge_of_tendsto (hb.mono_left (nhdsWithin_mono _ (inter_subset_left s (Ici x)))) _
+  exact mem_of_superset self_mem_nhdsWithin fun y hy => hf hx hy.1 hy.2
+#align is_lub.mem_upper_bounds_of_tendsto IsLUB.mem_upperBounds_of_tendsto
+
+-- For a version of this theorem in which the convergence considered on the domain `α` is as `x : α`
+-- tends to infinity, rather than tending to a point `x` in `α`, see `is_lub_of_tendsto_atTop`
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:1933]:
```suggestion
-- For a version of this theorem in which the convergence considered on the domain `α` is as `x : α`
-- tends to infinity, rather than tending to a point `x` in `α`, see `isLUB_of_tendsto_atTop`
```

File: Mathlib/Topology/Order/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,2795 @@
...
+
+theorem IsGLB.mem_lowerBounds_of_tendsto [Preorder γ] [TopologicalSpace γ] [OrderClosedTopology γ]
+    {f : α → γ} {s : Set α} {a : α} {b : γ} (hf : MonotoneOn f s) (ha : IsGLB s a)
+    (hb : Tendsto f (𝓝[s] a) (𝓝 b)) : b ∈ lowerBounds (f '' s) :=
+  @IsLUB.mem_upperBounds_of_tendsto αᵒᵈ γᵒᵈ _ _ _ _ _ _ _ _ _ _ hf.dual ha hb
+#align is_glb.mem_lower_bounds_of_tendsto IsGLB.mem_lowerBounds_of_tendsto
+
+-- For a version of this theorem in which the convergence considered on the domain `α` is as
+-- `x : α` tends to negative infinity, rather than tending to a point `x` in `α`, see
+-- `is_glb_of_tendsto_atBot`
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:1950]:
```suggestion
-- For a version of this theorem in which the convergence considered on the domain `α` is as
-- `x : α` tends to negative infinity, rather than tending to a point `x` in `α`, see
-- `isGLB_of_tendsto_atBot`
```

File: Mathlib/Topology/Order/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,2795 @@
...
+
+/-- A continuous antitone function sends indexed infimum to indexed supremum in conditionally
+complete linear order, under a boundedness assumption. -/
+theorem Antitone.map_cinfᵢ_of_continuousAt {f : α → β} {g : γ → α} (Cf : ContinuousAt f (⨅ i, g i))
+    (Af : Antitone f) (H : BddBelow (range g)) : f (⨅ i, g i) = ⨆ i, f (g i) :=
+  Monotone.map_cinfᵢ_of_continuousAt (show ContinuousAt (OrderDual.toDual ∘ f) (⨅ i, g i) from Cf)
+    Af H
+#align antitone.map_cinfi_of_continuous_at Antitone.map_cinfᵢ_of_continuousAt
+
+/-- A monotone map has a limit to the left of any point `x`, equal to `Sup (f '' (Iio x))`. -/
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:2752]:
```suggestion
/-- A monotone map has a limit to the left of any point `x`, equal to `supₛ (f '' (Iio x))`. -/
```

File: Mathlib/Topology/Order/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,2795 @@
...
+      simpa only [mem_image, exists_prop, exists_exists_and_eq_and] using
+        exists_lt_of_lt_csupₛ (nonempty_image_iff.2 h) hl
+    exact mem_of_superset (Ioo_mem_nhdsWithin_Iio' zx) fun y hy => lz.trans_le (Mf hy.1.le)
+  · refine mem_of_superset self_mem_nhdsWithin fun _ hy => lt_of_le_of_lt ?_ hm
+    exact le_csupₛ (Mf.map_bddAbove bddAbove_Iio) (mem_image_of_mem _ hy)
+#align monotone.tendsto_nhds_within_Iio Monotone.tendsto_nhdsWithin_Iio
+
+/-- A monotone map has a limit to the right of any point `x`, equal to `Inf (f '' (Ioi x))`. -/
+theorem Monotone.tendsto_nhdsWithin_Ioi {α β : Type _} [LinearOrder α] [TopologicalSpace α]
+    [OrderTopology α] [ConditionallyCompleteLinearOrder β] [TopologicalSpace β] [OrderTopology β]
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:2768]:
```suggestion
/-- A monotone map has a limit to the right of any point `x`, equal to `infₛ (f '' (Ioi x))`. -/
theorem Monotone.tendsto_nhdsWithin_Ioi {α β : Type _} [LinearOrder α] [TopologicalSpace α]
    [OrderTopology α] [ConditionallyCompleteLinearOrder β] [TopologicalSpace β] [OrderTopology β]
```

File: Mathlib/Topology/Order/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,2795 @@
...
+We also introduce another (mixin) class `OrderClosedTopology α` saying that the set of points
+`(x, y)` with `x ≤ y` is closed in the product space. This is automatically satisfied on a linear
+order with the order topology.
+
+We prove many basic properties of such topologies.
+
+## Main statements
+
+This file contains the proofs of the following facts. For exact requirements
+(`OrderClosedTopology` vs `OrderTopology`, `preorder` vs `partial_order` vs `linear_order` etc)
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:39]:
```suggestion
This file contains the proofs of the following facts. For exact requirements
(`OrderClosedTopology` vs `OrderTopology`, `Preorder` vs `PartialOrder` vs `LinearOrder` etc)
```

File: Mathlib/Topology/Order/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,2795 @@
...
+* `le_of_tendsto`, `ge_of_tendsto` : if `f` converges to `a` and eventually `f x ≤ b`
+  (resp., `b ≤ f x`), then `a ≤ b` (resp., `b ≤ a); we also provide primed versions
+  that assume the inequalities to hold for all `x`.
+
+### Min, max, `Sup` and `Inf`
+
+* `continuous.min`, `continuous.max`: pointwise `min`/`max` of two Continuous functions is
+  continuous.
+* `tendsto.min`, `tendsto.max` : if `f` tends to `a` and `g` tends to `b`, then their pointwise
+  `min`/`max` tend to `min a b` and `max a b`, respectively.
```
Comment (dupuisf) [inline Mathlib/Topology/Order/Basic.lean:67]:
```suggestion
### Min, max, `Sup` and `Inf`

* `Continuous.min`, `Continuous.max`: pointwise `min`/`max` of two continuous functions is
  continuous.
* `Tendsto.min`, `Tendsto.max` : if `f` tends to `a` and `g` tends to `b`, then their pointwise
  `min`/`max` tend to `min a b` and `max a b`, respectively.
```

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+

**Comment by urkud** [comment]
bors merge
